US04517010
Preparation of 3-pyridyl 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate:
To a stirred solution of 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride (3.79 g, 0.01 mole) and triethyl amine (1.01 g, 0.01 mole) in toluene (50 ml) was added 3-hydroxypyridine (0.95 g, 0.01 mole). The temperature exothermed to 33° C. and there was an immediate precipitate. The reaction was then refluxed for 24 hours, cooled to room temperature and the triethylamine hydrochloride precipitate collected by filtration. The toluene solution was washed with dilute sodium hydroxide solution and then with saturated sodium chloride solution. After drying and evaporation of the solvent there was obtained 3.1 g of brown oil which solidified. This was triturated with hexane and the solid filtered and dried to give a tan product, m.p. 65°-68° C.

reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride | 0.01 mole, 3.79 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
reactant | triethyl amine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxypyridine | 0.01 mole, 0.95 g | OC=1C=NC=CC1 | C5H5NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-pyridyl 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate | 3.1 g | ClC1=C(OC=2C=CC(=C(C(=O)OC=3C=NC=CC3)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C19H10ClF3N2O5
